* source SAJOL
V_V1         N000400 0 DC 0Vdc AC 1Vac 
R_R1         0 N00443  3.9k TC=0,0 
R_R3         N00375 N00350  3.9k TC=0,0 
R_R4         N00401 N00375  3.9k TC=0,0 
R_R9         N00320 N00316  3.9k TC=0,0 
R_R10         0 N00320  3.9k TC=0,0 
R_R7         N00489 N00375  2.2k TC=0,0 
R_R8         0 N00489  3.9k TC=0,0 
C_C1         N00350 N00316  910p  TC=0,0 
C_C2         N000400 N00401  1100p  TC=0,0 
C_C3         N00401 N00443  1100p  TC=0,0 
C_C4         0 N00508  910p  TC=0,0 
E_U1         N00316 0 VALUE {LIMIT(V(N00508,N00320)*1E6,-15V,+15V)}
E_U2         N00375 0 VALUE {LIMIT(V(N00443,N00489)*1E6,-15V,+15V)}
R_R11         N00350 N00508  3.9k TC=0,0 
